US07868180B2
B) Preparation of ethyl-4-(1-hydroxy-1-methylethyl)-2-propyl-1-[(2′-cyanobiphenyl-4-yl)-methyl]-imidazole-5-carboxylate
0.89 g (3.9 mmol) of potassium (2-cyanophenyl)-tetrafluoroboronate, 1.35 g (3.3 mmol) of ethyl 4-(1-hydroxy-1-methylethyl)-2-propyl-1-(4-bromobenzyl)imidazole-5-carboxylate, 15 mg (0.07 mmol) of palladium acetate, 30 mg (0.1 mmol) of tri-o-tolylphosphine were given into the dried flask equipped with reflux condenser. The flask was capped with a septum and filled with argon in three cycles. 18 mL of ethanol, saturated with argon and 0.9 mL of diisopropylethylamine saturated with argon were added to the flask via a syringe. Reaction mixture was heated and refluxed for 20 hours. Then, the reaction mixture was cooled, filtered and the solvent was evaporated under vacuo. To the residue 40 ml of isopropyl acetate and 42 ml of 0.05 M HCl were added. The mixture was stirred and then separated. The organic phase was washed twice with 40 ml of water, dried over Na2SO4 an evaporated to give 1.76 g of oily residue. The sample of the product for analytical purpose was purified using flash chromatography (MPh: hexane:ethyl acetate 1:1; v:v).

reactant | ethyl 4-(1-hydroxy-1-methylethyl)-2-propyl-1-(4-bromobenzyl)imidazole-5-carboxylate | 3.3 mmol, 1.35 g | OC(C)(C)C=1N=C(N(C1C(=O)OCC)CC1=CC=C(C=C1)Br)CCC | C19H25BrN2O3
reactant | tri-o-tolylphosphine | 0.1 mmol, 30 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diisopropylethylamine | 0.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | palladium acetate | 0.07 mmol, 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | ethyl-4-(1-hydroxy-1-methylethyl)-2-propyl-1-[(2′-cyanobiphenyl-4-yl)-methyl]-imidazole-5-carboxylate | 1.76 g | C(C)OC(=O)C1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)CCC)C(C)(C)O | C26H29N3O3
